datasets/10k__Tet_Int.csv
SMILES Labelled
"CCCCCCN([C:20]([O-:10])(OCC)[O:21]C1=CC=CC=C1)C>>CCCCCCN([C:20](=[O:10])OCC)C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[OH:21][C:20]1(OC)C(O)C(C)C(C)C(C)[OH+:10]1>>[OH:10]C(C)C(C)C(C)C(O)[C:20](OC)=[OH+:21] 21=20;20,10=10"
"[OH:21][CH:20]2([H])C(C3=C(C([NH+:10]2(C))C)C=CC=C3)[H]>>[NH:10](C)C(C1=C(C([CH:20]([H])=[OH+:21])[H])C=CC=C1)C 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[O-:10]C(C)C([H])C([C:20](C)=[O:21])O>>[O-:21][C:20]1(C)[O:10]C(C)C([H])C1O 10=20;20,21=21"
"CC1C(O[C:20](=[O:10])N1CC)C.[O-:21]CCCCCC>>CC1C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)C 21=20;20,10=10"
"C[O:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[NH][H] 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"[H][NH+:10](C([H])C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)=C(C)C([H])C([H])[O+:10]1([K])>>[O:10]([K])C([H])C([H])/C(C)=C(C)\[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][NH:10]C(CC)C([H])C(CC)[O][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(CC)[O]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"[CH2:11]1CO[CH:20]([CH2:10]1)[F:21]>>[CH2:10]=[CH:20]OC[CH2+:11].[F-:21] 10,11=10,20;20,21=21"
"C[O:10][H].[H][NH+:21]=[C:20]([O]C)[NH]C.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21][H])([O]C)[NH]C 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].C[O+:21]=[C:20]([S][H])[S]C.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21]C)([S][H])[S]C 10=20;20,21=21"
"[O-:10]C(C)C(C)N([C:20](OC)=[O:21])[H]>>[O-:21][C:20]1(OC)[O:10]C(C)C(C)N1[H] 10=20;20,21=21"
"[O-:21][C:20]1(C)C([H])C([H])=C([H])C(C)[O+:10]1([Na])>>[O:10]([Na])C(C)/C([H])=C([H])\C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])C([H])C([H])C([H])[NH+:10]1(C)>>[NH:10](C)C([H])C([H])C([H])C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][S:10]C([H])C(C)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C(C)[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C)[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[O]2.C[O:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C(C)[NH]1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(O)C(C)C(O)C([H])[NH+:10]1(C)>>[NH:10](C)C([H])C(O)C(C)C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[NH:10](C)C(CC)C(C)/C(C)=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C(C)C(C)C(CC)[NH+:10]1(C) 10=20;20,21=21"
"[O-:21][C:20]1([H])[NH+:10](C)C(C)C(C)C1C>>[NH:10](C)C(C)C(C)C([C:20]([H])=[O:21])C 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C)[NH]2.C[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O+:10]([K])C([H])C([H])=C1C>>[O:10]([K])C([H])/C([H])=C([C:20](OCC)=[O:21])/C 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CCCCCC)CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)CC)CC>>CCC1C(C(O[C:20](=[O:10])N1CC)CC)CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH]C([H])C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[NH]C([H])C(CC)[O]1 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C([H])[CH](C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(CC)[NH][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])C(C)C(C)C(CC)[NH+:10]1(C)>>[NH:10](C)C(CC)C(C)C(C)C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([S]C)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([S]C)[O]C 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]([NH:21]CC)([O][H])[NH][H].[Cl-]>>[Cl-].[H][NH:10][H].CC[NH+:21]=[C:20]([O][H])[NH][H] 21=20;20,10=10"
